US07335660B2
f) 5-[(3R)-3-Methyl-4-(2-{(1S)-6-[(2-oxo-1,3-oxazolidin-3-yl)methyl]-3,4-dihydro-1H-2-benzopyran-1-yl}ethyl)piperazinyl]-2-naphthonitrile
3-{[(1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]methyl}-1,3-oxazolidin-2-one was reacted with methanesulfonyl chloride, as described for the preparation of 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate. The resultant crude mesylate was then condensed with (3R)-1-(6-cyano-1-naphthyl)-3-methylpiperazine, as described for Example 1b), to yield the title compound. M+H=511.

reactant | 3-{[(1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]methyl}-1,3-oxazolidin-2-one | OCC[C@@H]1OCCC2=C1C=CC(=C2)CN2C(OCC2)=O | C15H19NO4
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C13H17NO5S
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | (3R)-1-(6-cyano-1-naphthyl)-3-methylpiperazine | C(#N)C=1C=C2C=CC=C(C2=CC1)N1C[C@H](NCC1)C | C16H17N3
product | 5-[(3R)-3-Methyl-4-(2-{(1S)-6-[(2-oxo-1,3-oxazolidin-3-yl)methyl]-3,4-dihydro-1H-2-benzopyran-1-yl}ethyl)piperazinyl]-2-naphthonitrile | C[C@@H]1CN(CCN1CC[C@@H]1OCCC2=C1C=CC(=C2)CN2C(OCC2)=O)C2=C1C=CC(=CC1=CC=C2)C#N | C31H34N4O3
